US07576094B2
To a solution of 5-ethyl-6-hydroxy-7,8-dimethylspiro[chromene-2,1′-cyclobutan]-4(3H)-one (0.51 g) in 9 mL of pyridine was added methoxyamine hydrochloride (0.82 g). The reaction mixture was allowed to stir at room temperature overnight. The mixture was extracted with ethyl acetate, washed with 1N HCl, and concentrated in vacuo to give 5-ethyl-6-hydroxy-7,8-dimethylspiro[chromene-2,1′-cyclobutan]-4(3H)-one O-methyloxime, 1H-NMR (300 MHz, CDCl3) δ=4.58 (s, 1H, 4.01 (s, 3H), 3.05 (m, 2H), 3.02 (s, 2H), 2.20 (s, 3H), 2.17 (s, 3H), 2.10-1.60 (m, 6H), 1.24 (t, 3H) ppm. 13C-NMR (75 MHz, CDCl3) δ=151.0, 147.4, 146.3, 125.8, 124.6, 124.3, 115.3, 76.9, 61.9, 33.9, 33.4, 21.2, 13.6, 12.7, 12.3, 12.1 ppm. MS: (m/z)=290.1 (M+H+).

reactant | 5-ethyl-6-hydroxy-7,8-dimethylspiro[chromene-2,1′-cyclobutan]-4(3H)-one | 0.51 g | C(C)C1=C2C(CC3(CCC3)OC2=C(C(=C1O)C)C)=O | C16H20O3
reactant | methoxyamine hydrochloride | 0.82 g | Cl.CON
solvent | pyridine | 9 mL | N1=CC=CC=C1 | C5H5N
product | 5-ethyl-6-hydroxy-7,8-dimethylspiro[chromene-2,1′-cyclobutan]-4(3H)-one O-methyloxime | CON=C1CC2(CCC2)OC2=C(C(=C(C(=C12)CC)O)C)C | C17H23NO3
